US09127003B2
(R)-(3-Aminopiperidin-1-yl)(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone
To a solution of (R)-tert-butyl(1-(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate (3.402 g, 6.44 mmol) in dichloromethane (DCM) (40 ml) was added TFA (9 ml, 118 mmol) dropwise. The reaction mixture was stirred for 3 hours. The reaction mixture was concentrated under vacuum to afford a yellow oil. The oil was dissolved in methanol and loaded onto a 70 g SCX cartridge. The column was washed with MeOH (2CV) and the product collected as the free base with 2M ammonia in methanol (3CV). The product was concentrated in vacuo and dried under vacuum to afford a yellow solid. This was dissolved in hot ethanol and concentrated in vacuo. It was again dissolved in hot ethanol, concentrated in vacuo and dried under vacuum to yield the title compound as a yellow solid (2.61 g).

reactant | (R)-tert-butyl(1-(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate | 6.44 mmol, 3.402 g | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC2CC2)C)C=C1)=O | C30H36N6O3
reactant | TFA | 118 mmol, 9 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | (R)-(3-Aminopiperidin-1-yl)(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone | 2.61 g | N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC2CC2)C)C=C1 | C25H28N6O
